US04804773
A solution of 3.9 g (20 mmol) of 4-tri-n-butylsiloxy-4-trifluoromethyl-2,5-cyclohexadien-1-one in 10 mL of absolute ethanol was treated successively with 1.3 g (20 mmol) of zinc dust and 10 mL of a solution of 80% acetic acid - 20% water. The mixture was heated to reflux for one hour, allowed to cool to room temperature, and poured into 100 mL of water. The resulting aqueous mixture was extracted with three 50 mL portions of diethyl ether. Combination, drying (MgSO4), and concentration of the ether layers afforded a residue which purified by short path distillation at 5.0 torr. At 60°-65° C., 0.80 g (47% yield) of 4-trifluoromethylphenol was collected.

reactant | 4-tri-n-butylsiloxy-4-trifluoromethyl-2,5-cyclohexadien-1-one | 20 mmol, 3.9 g | C(CCC)[Si](OC1(C=CC(C=C1)=O)C(F)(F)F)(CCCC)CCCC | C19H31F3O2Si
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | water | 100 mL | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | zinc | 20 mmol, 1.3 g | [Zn] | Zn
product | 4-trifluoromethylphenol | 0.80 g, 47% yield | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
